US07732446B1
As described in example 1, 46 mg of [6,8-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 20 mg (54%) of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid 4-methoxy-benzylamide hydrochloride. H1-NMR (DMSO): δ 9.26 (br s, 3H), 8.41 (s, 1H), 8.38 (br s, 1H), 7.31 (d, J=8.2 Hz, 2H), 7.09 (s, 1H), 6.90 (d, J=8.2 Hz, 2H), 6.81 (s, 1H), 4.67 (d, J=5.1 Hz, 2H), 4.44 (d, J=5.5 Hz, 2H), 3.96 (s, 3H), 3.76 (s, 3H), 3.71 (s, 3H); MS: APCI (M+H) calc'd for C21H23N3O4+H 382.4; found 382.2.

reactant | [6,8-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 46 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(NCC1=CC=C(C=C1)OC)=O)=O | C26H31N3O6
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid 4-methoxy-benzylamide hydrochloride | 20 mg, 54% | Cl.COC1=CC=C(CNC(=O)C2=CN=C(C3=C(C=C(C=C23)OC)OC)CN)C=C1 | InChI=1S/C21H23N3O4.ClH/c1-26-14-6-4-13(5-7-14)11-24-21(25)17-12-23-18(10-22)20-16(17)8-15(27-2)9-19(20)28-3;/h4-9,12H,10-11,22H2,1-3H3,(H,24,25);1H
